US09399638B2
Intermediate-9: 5-(6-Chloro-4-ethoxypyridin-2-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one
Step-4: 4-Ethoxy-2-(4-methyl-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)pyridine1-oxide: A solution of 5-(4-ethoxypyridin-2-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one (200 mg, 0.90 mmol) and mCPBA (156 mg, 0.90 mmol) in DCM (5 mL) was stirred at RT for 48 h. Ice water (10 mL) was added to the above reaction mixture, basified with aqueous saturated sodium bicarbonate solution (5 mL) and extracted with ethylacetate (3×10 mL). The combined organic layers were washed with brine (10 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum to afford 160 mg (75%) of title compound as a white solid. 1HNMR (400 MHz, DMSO) δ 8.29 (d, J=5.5 Hz, 1H), 7.32 (d, J=2.5 Hz, 1H), 7.13 (dd, J=5.5 & 2.5 Hz, 1H), 4.16 (q, J=7.0 Hz, 2H), 3.42 (s, 3H), 1.32 (t, J=7.0 Hz, 3H); GC-MS (m/z) 237 (M)+.

reactant | 4-Ethoxy-2-(4-methyl-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)pyridine1-oxide | C(C)OC1=CC(=[N+](C=C1)[O-])C=1OC(N(N1)C)=O | C10H11N3O4
reactant | 5-(4-ethoxypyridin-2-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one | 0.90 mmol, 200 mg | C(C)OC1=CC(=NC=C1)C1=NN(C(O1)=O)C | C10H11N3O3
reactant | mCPBA | 0.90 mmol, 156 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(6-Chloro-4-ethoxypyridin-2-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one | 160 mg, 75% | ClC1=CC(=CC(=N1)C1=NN(C(O1)=O)C)OCC | C10H10ClN3O3
